US08486968B2
N-(trans-4-Trifluoromethyl-cyclohexyl)-2-{2,6-dichloro-5-fluoro-3-[(tert.butoxycarbonylamino)-methyl]-phenylamino}-5-[4-fluoro-piperidinyl]-3H-imidazo[4,5-b]pyridine-6-carboxamide
The subtitle compound is prepared in analogy to 2d from N-(trans-4-trifluoromethyl-cyclohexyl)-5,6-diamino-2-(4-fluoro-piperidinyl)-nicotinic acid amide, (2,4-dichloro-5-fluoro-3-isothiocyanato-benzyl)-carbamic acid tert-butyl ester and DIC. The product is purified via prep. HPLC (C-18 stable bond, eluent gradient: water(+0.15% HCOOH)/MeOH 9:1->MeOH).

reactant | N-(trans-4-trifluoromethyl-cyclohexyl)-5,6-diamino-2-(4-fluoro-piperidinyl)-nicotinic acid amide | FC([C@@H]1CC[C@H](CC1)NC(C1=C(N=C(C(=C1)N)N)N1CCC(CC1)F)=O)(F)F | C18H25F4N5O
reactant | (2,4-dichloro-5-fluoro-3-isothiocyanato-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=C(C(=C1)F)Cl)N=C=S)Cl)=O | C13H13Cl2FN2O2S
reactant | DIC | CC(N=C=NC(C)C)C | C7H14N2
product | N-(trans-4-Trifluoromethyl-cyclohexyl)-2-{2,6-dichloro-5-fluoro-3-[(tert.butoxycarbonylamino)-methyl]-phenylamino}-5-[4-fluoro-piperidinyl]-3H-imidazo[4,5-b]pyridine-6-carboxamide | FC([C@@H]1CC[C@H](CC1)NC(=O)C=1C=C2C(=NC1N1CCC(CC1)F)NC(=N2)NC2=C(C(=CC(=C2Cl)F)CNC(=O)OC(C)(C)C)Cl)(F)F | C31H36Cl2F5N7O3
